US04521325
A solution of 6.23 g t-butylhydrazine hydrochloride (0.050 moles) in 50 mL tetrahydrofuran was degassed, then stirred under nitrogen as, first, one equivalent of powdered potassium hydroxide and then, dropwise, 2.85 g methyl isocyanate in 25 mL tetrahydrofuran were added. The solution was stirred overnight. The mixture was filtered to remove the residual solid impurity which was washed several times with tetrahydrofuran. The combined filtrates were evaporated to yield a white product which was taken up in chloroform and dried. Removal of the solvent yielded 5.80 g (79.9%) white crystalline N-methyl-1-t-butylhydrazinecarboxamide (m.p. 127°-9° C.). This structure was confirmed by NMR analysis.

reactant | t-butylhydrazine hydrochloride | 0.050 moles, 6.23 g | Cl.C(C)(C)(C)NN
reactant | potassium hydroxide | one equivalent | [OH-].[K+]
reactant | methyl isocyanate | 2.85 g | CN=C=O | C2H3NO
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-methyl-1-t-butylhydrazinecarboxamide | 5.80 g, 79.9% | CNC(=O)N(N)C(C)(C)C | C6H15N3O
